Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history significant 
for morbid obesity
(BMI 58) and open ccy c/b bile leak requiring CBD stent 
placement
and incisional hernia (OSH ___, now presenting with RLQ
abdominal pain. She was in her normal state of health until last
night when she had started to develop worsening RLQ abdominal
pain associated with nausea and vomiting this morning. Her last
meal was breakfast this morning but since then she has had loss
of appetite. Denies fevers, chills, diarrhea. No personal or
family history of inflammatory bowel disease.

 
Past Medical History:
morbid obesity, fatty liver, lung nodule 
 
Social History:
___
Family History:
Grandmother/aunt - breast cancer
Father - lung cancer
Uncle - cholangiocarcinoma 
No family history of inflammatory bowel disease

 
Physical Exam:
Physical Exam: upon admission: ___:

Vitals: 98.7  92  128/69  18  98%RA
GEN: AOx3, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR 
PULM: no respiratory distress
ABD: Morbidly obese, soft, nondistended, RLQ tenderness,
+Rovsing's sign, negative Psoas sign, no rebound or guarding,
well healed right subcostal incision, skin breakdown on the
underside of her pannus but not apparent infection or abscess 
Ext: No ___ edema, ___ warm and well perfused

Physical examination upon discharge:  ___:

General: NAD

CV:  ns1, s2, no murmurs
LUNGS:  clear
ABDOMEN:  hypoactive BS, soft, mild right lower quadrant 
tenderness, no rebound tenderness
EXT:  no calf tenderness bil., no pedal edema bil.
NEURO:  alert and oriented x 3, speech clear

 
Pertinent Results:
___ 04:53AM BLOOD WBC-6.7 RBC-3.59* Hgb-10.9* Hct-35.1 
MCV-98 MCH-30.4 MCHC-31.1* RDW-14.2 RDWSD-50.7* Plt ___
___ 04:45AM BLOOD WBC-10.5* RBC-3.57* Hgb-11.0* Hct-34.3 
MCV-96 MCH-30.8 MCHC-32.1 RDW-14.5 RDWSD-51.1* Plt ___
___ 02:45PM BLOOD WBC-12.9* RBC-4.17 Hgb-12.7 Hct-39.8 
MCV-95 MCH-30.5 MCHC-31.9* RDW-14.2 RDWSD-49.4* Plt ___
___ 02:45PM BLOOD Neuts-87.3* Lymphs-6.4* Monos-5.2 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-11.29* AbsLymp-0.83* 
AbsMono-0.67 AbsEos-0.06 AbsBaso-0.03
___ 04:53AM BLOOD Plt ___
___ 04:45AM BLOOD ___ PTT-32.6 ___
___ 04:53AM BLOOD Glucose-96 UreaN-7 Creat-0.7 Na-137 K-4.0 
Cl-105 HCO3-25 AnGap-11
___ 04:53AM BLOOD Calcium-8.5 Phos-3.0 Mg-2.2

___:  cat scan abdomen and pelvis

1. Findings are consistent with acute ruptured appendicitis with 
surrounding phlegmonous change.  No drainable abscess or 
evidence of macro rupture. 
2. Right paramedian ventral abdominal hernia with fascial defect 
measuring 4 cm containing nonobstructed loop of colon. 
3. Incompletely characterized 3.2 x 2.6 cm left adrenal mass. 
  

 
Brief Hospital Course:
___ year old female who was admitted to the hospital with right 
lower quadrant pain.  Upon admission, the patient was made NPO, 
given intravenous fluids, and underwent imaging. A cat scan of 
the abdomen and pelvis was done which showed an acute ruptured 
appendix with surrounding phlegmonous change.  No drainable 
abscess was identified.  Because of these findings, the patient 
was started on a course of ciprofloxacin and flagyl.  Her vital 
signs and white blood cell count were monitored and the patient 
underwent serial abdominal exams.  

On HD # 2, the patient was started on a clear liquid diet after 
she reported a decrease in her abdominal pain. After return of 
bowel function, she resumed a regular diet. The patient's vital 
signs remained stable and she was afebrile.  Her white blood 
cell count normalized.  The patient was discharged home on a 10 
day course of antibiotics.  A follow-up examination in the Acute 
care clinic was scheduled with Dr. ___ on ___.  Signs and 
symptoms of infection were reviewed with the patient at the time 
of discharge. 

Of note: the patient was informed of the cat scan finding of a 
incompletely characterized 3.2 x 2.6 cm left adrenal mass and 
the need for additional imaging.   A copy of the report was 
given to the patient.  The patient reported that she had been 
aware of this finding in the past and has been followed.  
 
Medications on Admission:
___ (OCP), albuterol pern 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Ciprofloxacin HCl 750 mg PO Q12H 
last dose ___ 
RX *ciprofloxacin HCl 750 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*18 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
4. MetroNIDAZOLE 500 mg PO Q8H 
last dose ___ 
RX *metronidazole 500 mg 500 tablet(s) by mouth every eight (8) 
hours Disp #*27 Tablet Refills:*0
5. Nystatin-Triamcinolone Ointment 1 Appl TP BID:PRN pannus 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
perforated appendix

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with right lower quadrant 
abdominal pain.  You underwent a cat scan which showed a 
ruptured appendix without evidence of an abscess.  You were made 
NPO and started on antibiotics.  You abdominal pain has 
decreased and you have resumed a regular diet.  Your vital signs 
have been stable with a normal white blood cell count.  You are 
preparing for discharge with the following instructions:  

  You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 
Followup Instructions:
___